### PR TITLE
ClassicalMeanics: proof that total time derivatives does not affect the variations

### PR DESCRIPTION
**Pull request by abudjum**
This is a first step in proving the claim that is present in the docstring of Physlib.ClassicalMechanics.Lagrangian.TotalDerivativeEquivalence: total time derivatives do not affect the variational derivative of the action, and thus the equation of motion (the latter is not treated yet to keep the size of the pull request resaonable).

There is one additional technical lemma, proving that negative of a total time derivative is again a total time derivative. This is necessary for the proof of  totalTimeDerivative_varGradient_equivalenvce, that does not assume existence of the vartiational derivative, leading to consideration of three different cases.

### CODE REVIEW

File: Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean [hunk 1]
```diff
@@ -188,10 +189,121 @@ lemma isTotalTimeDerivative_explicit {δL : Time → X → X → ℝ} :
...
+  ∫d/dt F(t, q)= F(t₁,q₁) - F(t₀,q₀)
+  is fixed by the boundary conditions.
+-/
+
+
+ /--
+Total time derivative has a variational derivative, which is zero
+ -/
+lemma totalTimeDerivative_hasZeroVarGradient [CompleteSpace X] {δL : Time → X → X → ℝ}
+    (h : IsTotalTimeDerivative δL) (q : Time → X)    (hq : ContDiff ℝ ∞ q):
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean]:
```suggestion
    (h : IsTotalTimeDerivative δL) (q : Time → X) (hq : ContDiff ℝ ∞ q):
```

File: Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean [hunk 2]
```diff
@@ -188,10 +189,121 @@ lemma isTotalTimeDerivative_explicit {δL : Time → X → X → ℝ} :
...
+      rfl
+  funext t
+  unfold adjFDeriv
+  simp [adjoint_eq_clm_adjoint]
+
+/--
+If two lagrangians, L and L', differ by a total time derivative, and L has a variational derivative
+grad, then so does L'.
+ -/
+lemma totalTimeDerivative_HasVarGradientAt_equivalence [CompleteSpace X] (L δL : Time → X → X → ℝ)
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean]: should be `totalTimeDerivative_hasVarGradientAt_equivalence`

File: Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean [hunk 3]
```diff
@@ -188,10 +189,121 @@ lemma isTotalTimeDerivative_explicit {δL : Time → X → X → ℝ} :
...
+
+
+/-
+Reformulation of the previous result:
+If two lagrangians, L and L', differ by a total time derivative, their variational time derivatives
+coincide (or neither of them has a variational derivative).
+-/
+lemma totalTimeDerivative_varGradient_equivalenvce [CompleteSpace X] (L L' : Time → X → X → ℝ)
+    (htot : IsTotalTimeDerivative (L' - L))
+    (q : Time → X)    (hq : ContDiff ℝ ∞ q):
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean]:
```suggestion
    (q : Time → X) (hq : ContDiff ℝ ∞ q):
```

**Review by jstoobysmith — COMMENTED** [review]
This looks good - a couple of comments.

**Comment by abudjum** [comment]
Thanks!

**Comment by abudjum** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Approved - many thanks. Will merge shortly.
